Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-1.34121742463
[C:7]([H:8])([C:9])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-7.285821469189999
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.29071363667
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:7],1.4203782449200002
[C:3](#[C:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2]/[C:3](=[C:4]/[C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.3068304976
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],3.72069964318
[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.31395253345
[O:1]=[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8],3.35329022066
[C:8]([H:9])[O:10][H:11].[H:1][C:2][C:3]([H:4])([H:5])[C:6]=[O:7]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[O:10][H:11],-0.68288029409
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@:3]([H:4])([C:5][O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:6],3.71377708008
[C:1]#[C:2].[C:3]([O:4][H:5])[O:6][C:7]([H:8])[H:9]>>[C:1]#[C:2][C:3]([O:4][H:5])[O:6][C:7]([H:8])[H:9],-6.49820134345
[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][O:3][C@@:4]1([H:5])[C:6]([H:7])=[C:8]([H:9])[C:10]1([H:11])[H:12],-3.18457977398
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][H:4],1.2129164219
[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7][C:9]([H:10])[H:11].[H:8]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11],-2.79723695838
[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])[C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.05727442488
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.586857623999999
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.46186988667
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][C:11]([H:12])([H:13])[H:14].[H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-3.69534045234
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:8].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:9]([H:10])[H:11],4.8499100222500005
[O:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[H:10].[O:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])[H:9],3.21957128303
[H:1][C:2]1=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14].[H:3]>>[H:1][C:2]1([H:3])[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14],-2.79747065358
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.95560949346
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4],1.86968212817
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:11]=[C:12]([H:13])[H:14],1.7941654932900002
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11].[O:1],4.08909972592
[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[H:7],3.7959279040900022
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][C:9]=[C:10]([H:11])[H:12].[H:7],3.82020590455
